US06194406B1
1-(2,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 7.6 using 1-(2,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt to give the title compound: Rf=0.42 (silica gel, 9/1/0/1 dichloromethane/methanol/concentrated aqueous ammonia).

reactant | 1-(2,4,5-trimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C(=C1)OC)OC | C23H29NO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
product | 1-(2,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C(=C1)OC)OC | C38H49N5O5
